datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([CH2:10][CH+:11][C:62]2=[C:63](C)[CH:64]=[C:65](C)[CH:74]=[C:73]2C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H][C:11]1([H:10])[C:12](C(=O)OCC)=[CH:13][NH:14][CH:63]=[C:64]1C(=O)OCC>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H][C:11]1=[C:12](C(=O)OCC)[CH:13]=[NH+:14][CH:63]=[C:64]1C(=O)OCC 10,11=10,20;12,13=11,12;14=13,14"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:21](C)=[CH:20]Cl.C[N:10]1CCOCC1>>C[N+:10]1([CH:20](Cl)[N:21](C)C)CCOCC1 10=20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[O:12][C:11]1=[CH:10][CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]2[C:11](=[O+:12]C)[CH:62]=[C:63]([O:64]C)[CH:72]=[CH:71]2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[C:11]1=[N:10]CC[O:12]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2CC[O+:12]=[C:11]2C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C1C[O:72][C:61](=[O:62])[N-:10]1>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([N:10]2CC[O:72][C:61]2=[O:62])[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10=20
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1>>C/[CH:63]=[CH:62]/[CH+:11][CH2:10][CH:20]([N:21]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:12]1[C:11](=[CH2:10])[N:61](C)[C:64]2=[C:63]1C=CC=C2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11]2=[N+:12](C)[C:63]3=[C:64](C=CC=C3)[N:61]2C)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[N:16](C)[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1.C[N+:16](C)=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N:86](C)C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23,24;24,25=25"
"C1CCC[C:20](=[O:21])CC1.CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10]>>CC(C)(C)[Si:63](C)(C)[O+:12]=[C:11](C)[CH2:10][C:20]1([O-:21])CCCCCC1 10,11=10,20;12=11,12;20,21=21"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(C)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14"
